US03950528
3-Amino-1-(2,5-dichlorobenzyl)-pyrazol-5-one ##SPC58##
32.8 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1 g of p-toluenesulphonic acid were dissolved in 120 ml of ethanol and 39 g of 2,5-dichlorobenzylhydrazine were added under nitrogen. After stirring for 2 hours the mixture was left to stand overnight and the compound identified above, which precipitated, was filtered off and recrystallised from ethanol. Melting point: 195°-196°C; Yield: 23 g (43%).

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 32.8 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,5-dichlorobenzylhydrazine | 39 g | ClC1=C(CNN)C=C(C=C1)Cl | C7H8Cl2N2
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 3-Amino-1-(2,5-dichlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=CC(=C1)Cl)Cl | C10H9Cl2N3O
